US07064143B1
N-(4-Chlorobenzyl)4-hydroxy-1-methyl-1H-indole-2-carboxamide
From 4-benzyloxy-1-methyl-1H-indole-2-carboxylic acid and 4-chlorobenzylamine the title compound was prepared by a method analogous to that described in Example 11. MS ES (M++H) 315 and 317.

reactant | 4-benzyloxy-1-methyl-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C2C=C(N(C2=CC=C1)C)C(=O)O | C17H15NO3
reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)4-hydroxy-1-methyl-1H-indole-2-carboxamide | ClC1=CC=C(CNC(=O)C=2N(C3=CC=CC(=C3C2)O)C)C=C1 | C17H15ClN2O2
